US07129237B2
7-bromo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
7-bromo-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (11.8 g, 46.2 mmol) was transferred to a round bottom flask. THF (0.57M) was added to the flask to make a slurry. Lithium aluminum hydride in 1M solution of THF (138.8 mmol) was added dropwise. When the addition was completed, the reaction mixture was heated to 63° C. After 19 hours, the reaction mixture was cooled to room temperature and then to 0° C. Water (3 mL) was added to the cooled reaction mixture, and the reaction mixture was stirred for 1 hour. After the 1 hour, 9 mL of 15% NaOH was added and the reaction mixture was stirred for another hour. Water was then added and the resulting precipitate was filtered off. The precipitate was then washed with ethyl acetate several times. The solvent was removed from the filtrate and the filtrate was transferred to a separatory funnel with ethyl acetate. The filtrate was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine (1×), dried with magnesium sulfate, filtered and concentrated to give a yellow solid. Further purification (1% TEA/Ethyl acetate to start, then switched to 20% ammonia (2M solution in methanol)/ethyl acetate, then 100% methylene chloride) yielded the desired product.

reactant | 7-bromo-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 46.2 mmol, 11.8 g | BrC=1C=CC2=C(C(NCC(N2)=O)=O)C1 | C9H7BrN2O2
reactant | THF | 0.57M | C1CCOC1 | C4H8O
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 138.8 mmol | C1CCOC1 | C4H8O
reactant | NaOH | 9 mL | [OH-].[Na+]
solvent | Water | O | H2O
solvent | Water | 3 mL | O | H2O
product | 7-bromo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | BrC=1C=CC2=C(CNCCN2)C1 | C9H11BrN2
